### PR TITLE
Deprecate Focus and Unfocus

### PR DESCRIPTION
**Pull request by Zimmi48**
The rationale for deprecating these commands is that it will allow some code simplification: right now the focus stack is a stack of couples of lists because we need to know which unfocused goals to restore before and after the current goals when calling `Unfocus`. If we forbid unfocusing without completing the current goal, a stack of lists (or a list of goals and focus depth) will be enough.

Right now, the main use of `Unfocus` is in the following pattern:

```coq
Focus 2. { (* solve goal *) } Unfocus.
```

That's a pattern that can be found in VST, bedrock, UniMath, fiat and many other developments.
It can now be replaced by:

```coq
2: { (* solve goal *) }
```

which is cleaner.

This deprecation / removal marks the end of the transition from an initial period during which the focusing commands were created to manage goal printings within `coqtop` to a new one (starting with @aspiwack's new proof engine) where focusing commands are useful to give structure to scripts.

The confusion between the two purposes still existed until recently (for instance, it led @maximedenes to doubt of the usefulness of the new `Set Printing Unfocused` option).

- [x] Corresponding documentation was updated
- [x] Entry in CHANGES

### CODE REVIEW

**Comment by Zimmi48** [comment]
No the default is still to mask them in `coqtop` (thus PG) and CoqIDE but whether the default should be changed could be considered as an independent (more UI) question.

**Comment by maximedenes** [comment]
Then I don't understand:

"This deprecation / removal marks the end of the transition from an initial period during which the focusing commands were created to manage goal printings within coqtop to a new one (starting with @aspiwack's new proof engine) where focusing commands are useful to give structure to scripts."

It seems that we haven't reached that state yet, since focusing still has an impact on printing.

**Comment by Zimmi48** [comment]
What I meant was that focusing is not anymore something that can be used just to control printing because it also constrains the structure of the proof script. I do not pretend to be an UI expert so I wouldn't want to take a decision on the default effect on the printing behavior.

> It seems that we haven't reached that state yet, since focusing still has an impact on printing.

Technically this is indeed accurate.

File: doc/refman/RefMan-pro.tex [hunk 1]
```diff
@@ -298,15 +298,19 @@ \section{Navigation in the proof tree}
...
 \end{Variant}
 
+\emph{This command is deprecated: prefer the use of bullets or
+  focusing brackets instead, including {\tt {\num}: \{}}.
+
 \subsection[\tt Unfocus.]{\tt Unfocus.\comindex{Unfocus}}
 This command restores to focus the goal that were suspended by the
 last {\tt Focus} command.
 
+\emph{This command is deprecated.}
```
Comment (maximedenes) [inline doc/refman/RefMan-pro.tex]: Please change to "deprecated since Coq 8.8".

File: parsing/g_proofs.ml4 [hunk 2]
```diff
@@ -19,6 +19,25 @@ let thm_token = G_vernac.thm_token
...
+  CWarnings.create ~name:"deprecated-focus" ~category:"deprecated"
+         (fun () ->
+           Pp.strbrk
+             "Focus is deprecated; use bullets or focusing brackets instead"
+         )
+
+let warn_deprecated_focus_n n =
+  CWarnings.create ~name:"deprecated-focus" ~category:"deprecated"
+         (fun () ->
+           Pp.strbrk ( "Focus " ^ string_of_int n ^ " is deprecated; use "
```
Comment (maximedenes) [inline parsing/g_proofs.ml4]: I think it would make more sense to say "The Focus command is deprecated". It is not really `Focus 2` or `Focus 3` that is deprecated...

**Review by maximedenes — DISMISSED** [review]

File: parsing/g_proofs.ml4 (hunk 2 above)
Comment (Zimmi48) [reply parsing/g_proofs.ml4]: Right, but do you agree that it is a good idea to propose an alternative which reuses the number from the `Focus` command?

**Comment by ejgallego** [comment]
> `2: { (* solve goal *) }`
 
Umm, I'm not sure how this works. Can you work interactively with `2: { }` ?

File: parsing/g_proofs.ml4 (hunk 2 above)
Comment (maximedenes) [reply parsing/g_proofs.ml4]: Yes.

**Comment by maximedenes** [comment]
> Umm, I'm not sure how this works. Can you work interactively with 2: { } ?

I thought you could simply play `2: {`. Isn't it the case?

**Comment by Zimmi48** [comment]
Yes, of course you can use this interactively!

**Comment by ejgallego** [comment]
Thanks, it was a honest question so I could try the new approach.

**Comment by ejgallego** [comment]
> I thought you could simply play 2: {. Isn't it the case?

Yup, silly me I was typing `2:{ }` all the time.

File: doc/refman/RefMan-pro.tex (hunk 1 above)
Comment (Zimmi48) [reply doc/refman/RefMan-pro.tex]: Done.

File: parsing/g_proofs.ml4 (hunk 2 above)
Comment (Zimmi48) [reply parsing/g_proofs.ml4]: Changed.

**Comment by ejgallego** [comment]
It seems that Proof General cannot indeed take this syntax... I thought they have fixed it, let me upgrade my PG.

The new restriction basically means that before, if I did:
```coq
Lemma u : True /\ True.
Proof.
split.
```
I could do:
```coq
Focus 1. idtac. Unfocus.
```
to partially work on a goal and continue with the rest, however now, I am forced to close the focused goal as this fails:
```coq
2: { idtac. }
```
It doesn't look like a significant restriction but maybe one worth getting feedback from `Focus` users.

**Comment by ejgallego** [comment]
By the way, the current error message:
```
Error: This proof is focused, but cannot be unfocused this way
```
could be certainly improved.

**Comment by Zimmi48** [comment]
Yep, @ejgallego I am aware of this restriction. That's what I meant in:

> If we forbid unfocusing without completing the current goal, a stack of lists (or a list of goals and focus depth) will be enough.

That being said, there is the `admit` tactic to allow delaying the time when you actually complete the proof.

> It doesn't look like a significant restriction but maybe one worth getting feedback from Focus users.

Yeah, that's why I requested @silene's review in particular as he is one of them.

**Comment by ejgallego** [comment]
PG `master` doesn't seem to work for me with `2: {` :(

**Comment by Zimmi48** [comment]
I just pulled the latest PG master, ran `make`, opened Emacs with `coqtop` version 8.8 in the PATH and that worked perfectly fine for me.

**Comment by ejgallego** [comment]
Thanks Théo, I'll see what's wrong with my setup.

File: parsing/g_proofs.ml4 [hunk 3]
```diff
@@ -19,6 +19,25 @@ let thm_token = G_vernac.thm_token
...
+         (fun () ->
+           Pp.strbrk
+             "The Focus command is deprecated; use bullets or focusing brackets instead"
+         )
+
+let warn_deprecated_focus_n n =
+  CWarnings.create ~name:"deprecated-focus" ~category:"deprecated"
+         (fun () ->
+           Pp.strbrk ( "The Focus command is deprecated; use "
+                       ^ string_of_int n ^ ": { instead"
```
Comment (silene) [inline parsing/g_proofs.ml4]: Please don't use `Pp.strbrk` and `^` together; no point in concatenating strings if they are split right afterwards, just use `++`. Also, don't use `strbrk` unless you are sure the message can be split at any whitespace; here the message cannot be split between the colon and the curly bracket. Also I suggest using delimiters to clearly show to the user what is supposed to be written.

```
Pp.(str "The Focus command is deprecated;" ++ spc () ++ str "use '" ++ int n ++ ": {' instead")
```

**Review by silene — APPROVED** [review]

File: parsing/g_proofs.ml4 (hunk 3 above)
Comment (Zimmi48) [reply parsing/g_proofs.ml4]: Thanks for the suggestion @silene! In fact, I just copied the warning code from somewhere else without really thinking about what `Pp.strbrk` was doing.

File: plugins/rtauto/Rtauto.v [hunk 4]
```diff
@@ -255,122 +255,115 @@ Theorem interp_proof:
...
-Focus 1.
-simpl;case_eq (check_proof hyps f p1);clean.
-intros check_p1 check_p2;
-generalize (IHp1 hyps F f check_p1)
-(IHp2 (hyps\f) (F_push f hyps F) gl check_p2);
-simpl; apply compose2;auto.
+induction p; intros hyps F gl.
+
+- (* Axiom *)
+  simpl;case_eq (get p hyps);clean.
```
Comment (aspiwack) [inline plugins/rtauto/Rtauto.v]: This is a bit icky. Could we replace the focus by brackets or bullets? Rather than dropping it altogether? I was clearly meant to indicate some structure by the proof author.

File: theories/Reals/Ranalysis5.v [hunk 5]
```diff
@@ -27,46 +27,34 @@ Lemma f_incr_implies_g_incr_interv : forall f g:R->R, forall lb ub,
...
- assert (gy_encad := g_ok _ (proj1 y_encad) (proj2 y_encad)).
- clear Temp1 Temp2.
- case (Rlt_dec (g x) (g y)).
-  intuition.
+  intros f g lb ub lb_lt_ub f_incr f_eq_g g_ok x y lb_le_x x_lt_y y_le_ub.
+  assert (x_encad : f lb <= x <= f ub) by lra.
+  assert (y_encad : f lb <= y <= f ub) by lra.
+  assert (gx_encad := g_ok _ (proj1 x_encad) (proj2 x_encad)).
+  assert (gy_encad := g_ok _ (proj1 y_encad) (proj2 y_encad)).
+  case (Rlt_dec (g x) (g y)); [ easy |].
```
Comment (aspiwack) [inline theories/Reals/Ranalysis5.v]: Most changes in this file look unrelated. What happened?

**Review by aspiwack — COMMENTED** [review]
I'm not sure the characterisation of Focus being only about printing before is quite accurate (`Focus 2` had real effect on proof structure).

Yet, the `Focus` command is a bit clunky to use. So it's probably not very useful.

I'm curious as whether it adds much of a maintenance burden, however. I probably knew at some point, but I forgot since. I'm not sure that moving from pairs of lists to just lists is a very strong motivation.

Are we sure, by the way, that we only want to allow unfocusing on complete subproofs?

To be clear: I really don't mind these going away, I'm just asking for clarification.

File: plugins/rtauto/Rtauto.v (hunk 4 above)
Comment (Zimmi48) [reply plugins/rtauto/Rtauto.v]: Hey I replaced it by bullets!

File: theories/Reals/Ranalysis5.v (hunk 5 above)
Comment (Zimmi48) [reply theories/Reals/Ranalysis5.v]: Yeah well I took the opportunity to simplify the proof a bit.

File: plugins/rtauto/Rtauto.v (hunk 4 above)
Comment (aspiwack) [reply plugins/rtauto/Rtauto.v]: Dear. I obviously can't read. Sorry.

**Comment by maximedenes** [comment]
So, let's merge?

**Comment by aspiwack** [comment]
I have no objections.

**Comment by Zimmi48** [comment]
I had started an answer to your questions @aspiwack so posting it anyways:

About the cost of keeping the feature: it's not such a big cost but the code would still be clearer without it. Moreover, I have plans for more improvements and that may add some complexity so better remove some of the unnecessary complexity as well.

About the use case of `Unfocus`: I really wondered about it. So I did some GitHub code search and that's how I found about the use case I'm mentioning in the description. I can also see the use case when people were doing their proofs in `coqtop` as it allowed to go back and forth between several subgoals. However with an editor, this can be done with `admit`. The only last possible use case (which I haven't seen in practice) would be going back and forth between the proofs of dependent sub-goals. But in this case, focusing doesn't seem very adapted and it would be probably be better to just use goal selectors. (In particular, such use case would be "leaking" outside of the focused goal and after hearing @maximedenes complain about this, I have decided that it would be interesting to develop an option / mode that prohibits this kind of leakage - to get strict focusing).

**Comment by maximedenes** [comment]
All failures look spurious.

**Comment by maximedenes** [comment]
@Zimmi48 two years later, we still have a deprecation warning emitted by the parser. Do you have a follow-up plan?

**Comment by Zimmi48** [comment]
Since then, a user has reported a use case for `Unfocus` (#10688). The plan is to support that use case by providing a new way to unfocus without solving all the goals (proposed syntax is `!}` ). Until then, these commands should not be removed.
